US09399640B2
Step 6. 4-[4-(Cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 5-bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C27H27N4O4S (M+H)+: m/z=503.2. found: 503.1.

reactant | 5-bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole | BrC=1C(=C2C=NN(C2=CC1)C)OCC1CC1 | C12H13BrN2O
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 4-[4-(Cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | C1(CC1)COC1=C2C=NN(C2=CC=C1C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C | C27H26N4O4S
